US06440995B1
To a room temperature solution of (RS)-1-amino-3-(2-phenyl-quinolin-4-ylamino)-propan-2-ol (0.293 g, 1 mmol) and triethylamine (0.42 ml,3 mmol) in dioxane (6 ml) was added a solution of phenylacetylchloride (0.198 ml, 1.5 mmol) in dioxane (1 ml). After stirring for 3 hours at room temperature, the reaction mixture was quenched with H2O and 1N NaOH. The aqueous phase was extracted with CH2Cl2 (5×10 ml). The combined organic phases were dried over Na2SO4, concentrated and chromatographed over silica gel (CH2Cl2—MeOH, 19:1 then 9:1) to provide a yellow oil which was dissolved in MeOH. HCl-Et2O was added to provide (RS)-N-[2-hydroxy-3-(2-phenyl-quinolin-4-ylamino)-propyl]-2-phenyl-acetamide hydrochloride (0.113 g, 25%) as a light yellow foam, MS: m/e=412.3 (M+H+).

reactant | (RS)-1-amino-3-(2-phenyl-quinolin-4-ylamino)-propan-2-ol | 1 mmol, 0.293 g | NCC(CNC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)O | C18H19N3O
reactant | triethylamine | 3 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetylchloride | 1.5 mmol, 0.198 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | HCl Et2O | Cl.CCOCC
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
product | (RS)-N-[2-hydroxy-3-(2-phenyl-quinolin-4-ylamino)-propyl]-2-phenyl-acetamide hydrochloride | 0.113 g, 25% | Cl.OC(CNC(CC1=CC=CC=C1)=O)CNC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | InChI=1S/C26H25N3O2.ClH/c30-21(18-28-26(31)15-19-9-3-1-4-10-19)17-27-25-16-24(20-11-5-2-6-12-20)29-23-14-8-7-13-22(23)25;/h1-14,16,21,30H,15,17-18H2,(H,27,29)(H,28,31);1H
